US04552894
To 30 ml of dimethylformamide were added 7.0 g of 4-isopropenylphenol, 6.1 g of 1-fluoro-2-chloroethane and 8.7 g of potassium carbonate. With stirring, they were reacted at 120° C. for 4 hours. The reaction mixture was cooled to room temperature, and poured into water. The mixture was then extracted with toluene. The toluene layer was washed with water and dried over anhydrous sodium sulfate. Toluene was evaporated under reduced pressure to give 9.0 g of crude 4-(2-fluoroethoxy)isopropenylbenzene.

reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | 4-isopropenylphenol | 7.0 g | C(=C)(C)C1=CC=C(C=C1)O | C9H10O
reactant | 1-fluoro-2-chloroethane | 6.1 g | FCCCl | C2H4ClF
reactant | potassium carbonate | 8.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 4-(2-fluoroethoxy)isopropenylbenzene | 9.0 g | FCCOC1=CC=C(C=C1)C(=C)C | C11H13FO
